US08404722B2
Preparation of 2-(4-nitrophenyl)-4-phenyl-5-(trifluoromethyl)oxazole (1e):
to a solution of bis(trifluoroacetic) anhydride (3.1 ml, 22 mmol) and pyridine (3.5 ml, 44 mmol) in 30 mL benzene cooled by an ice bath was added 2-(N-benzyl-4-nitrobenzamido)-2-phenylacetic acid (2.852 g, 7.3 mmol). The reaction was equilibrated to room temperature for several hours then heated to reflux. The reaction was left stirring at reflux overnight. After ca. 16 h the reaction was poured into 100 mL saturated aqueous sodium bicarbonate solution. The aqueous layer was extracted with 2×50 mL ethyl acetate. Combined organic layers were washed with 50 mL brine then stirred over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to afford a red oil. The product was isolated by chromatography on silica gel, eluting with 15-40% ethyl acetate in hexanes, to afford purified product as a colorless, crystalline solid (1.5 g 61%). ESI+ m/z=335.0 [MH]+.

reactant | bis(trifluoroacetic) anhydride | 22 mmol, 3.1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 44 mmol, 3.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-(N-benzyl-4-nitrobenzamido)-2-phenylacetic acid | 7.3 mmol, 2.852 g | C(C1=CC=CC=C1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(C(=O)O)C1=CC=CC=C1 | C22H18N2O5
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 2-(4-nitrophenyl)-4-phenyl-5-(trifluoromethyl)oxazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC(=C(N1)C1=CC=CC=C1)C(F)(F)F | C16H9F3N2O3
